US08729274B2
3-Chloro-1,2-dihydrocyclobutabenzene-1-carboxylic acid (3.78 mmol, 690 mg) was dissolved in DCM (10 ml). (E)-N-benzyl-2-methylbut-2-en-1-amine (5.67 mmol, 993 mg) and triethylamine (7.56 mmol, 1.050 ml, 765 mg) were added, followed by cyclophos 50% in ethyl acetate (4.53 mmol, 2.70 ml, 2886 mg). The reaction mixture was stirred overnight at room temperature and then diluted with DCM (5 ml) and washed in turn with 2 N HCl (10 ml), 2 N NaOH (10 ml) and brine (10 ml). The organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a crude residue that was purified by silica column chromatography (eluting with heptane—50% ethyl acetate:heptane) to give (E)-N-benzyl-3-chloro-N-(2-methylbut-2-enyl)-1,2-dihydrocyclobutabenzene-1-carboxamide (430 mg). m/z: 340.5 [M+H]+.

reactant | 3-Chloro-1,2-dihydrocyclobutabenzene-1-carboxylic acid | 3.78 mmol, 690 mg | ClC1=CC=CC2=C1CC2C(=O)O | C9H7ClO2
reactant | (E)-N-benzyl-2-methylbut-2-en-1-amine | 5.67 mmol, 993 mg | C(C1=CC=CC=C1)NC\C(=C\C)\C | C12H17N
reactant | triethylamine | 7.56 mmol, 1.050 ml, 765 mg | C(C)N(CC)CC | C6H15N
reactant | cyclophos | [O-]P1(=O)OP(=O)(OP(=O)(OP(=O)(O1)[O-])[O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | ethyl acetate | 4.53 mmol, 2.70 ml, 2886 mg | C(C)(=O)OCC | C4H8O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (E)-N-benzyl-3-chloro-N-(2-methylbut-2-enyl)-1,2-dihydrocyclobutabenzene-1-carboxamide | 430 mg | C(C1=CC=CC=C1)N(C(=O)C1CC2=C1C=CC=C2Cl)C\C(=C\C)\C | C21H22ClNO
